US05576324
2-(β-Alanylaminomethyl)-2,3,6,7,8,9-hexahydro-5-methylfuro-[2,3-f]quinoline-7-one.
A hydrochloric acid salt of 2-(β-Alanylaminomethyl)-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (1.10 g, 3.26 mmol) was dissolved in water (50 ml). To the obtained solution, 10% palladium-on-carbon (1.10 g) was added, followed by stirring at 80° C. for 3 hours in the atmosphere of hydrogen. The reaction mixture was filtered, and the filtrate was condensed under reduced pressure. The resultant residue was submitted to a recrystallizing procedure using methanol to obtain 727 mg of the title compound as colorless powdery crystals (66.1%).

reactant | hydrochloric acid | Cl | ClH
reactant | 2-(β-Alanylaminomethyl)-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 3.26 mmol, 1.10 g | NCCC(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C16H19N3O3
reactant | hydrogen | [H][H] | H2
reactant | methanol | CO | CH4O
solvent | water | 50 ml | O | H2O
catalyst | palladium-on-carbon | 1.10 g | [Pd] | Pd
product | 2-(β-Alanylaminomethyl)-2,3,6,7,8,9-hexahydro-5-methylfuro-[2,3-f]quinoline-7-one | 727 mg, 66.1% | NCCC(=O)NCC1CC=2C(=C3CCC(NC3=C(C2)C)=O)O1 | C16H21N3O3
